* C:\users\luca\Desktop\Uni\appunti\Electronics for Embedded Systems\homework\opamp_alg1.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 N004 Vout opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
Rf Vout N001 10k
R2tt N001 N003 2.5k
R1tt N001 N002 5k
R1t N004 N005 5k
R2t N004 N006 3.3k
V1t N005 0 1
V2t N006 0 2
V1tt N002 0 3
V2tt N003 0 4
Ra N004 0 5k
.lib opamp.sub
.tran 100m
.backanno
.end
