* Z:\home\luca\Desktop\Uni\appunti\Electronics for Embedded Systems\homework\opamp_alg4.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 N002 Vout opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
Rf Vout N001 10k
Rn N001 0 877
R1 N002 N004 24k
R1t N002 N003 833
V1t N003 0 0.1
Vcc N004 0 12
.lib opamp.sub
.tran 100m
.backanno
.end
